US07579488B2
Preparation of methanesulfonic acid 2-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzofuran-6-yl ester
A solution of 1-{4-[1-ethyl-1-(6-hydroxy-benzofuran-2-yl)-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one (116 mg, 0.407 mmol) and Et3N (0.20 mL) in CH2Cl2 (5.0 mL) at 0° C. is added methanesulfonic chloride (70 mg, 0.610 mmol). The resulting mixture is stirred for 30 min and quenched with MeOH (1.0 mL). The mixture is purified on column chromatography (25% EtOAc/Hex) to afford the title compound (185 mg, 93%).

reactant | 1-{4-[1-ethyl-1-(6-hydroxy-benzofuran-2-yl)-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one | 0.407 mmol, 116 mg | C(C)C(CC)(C=1OC2=C(C1)C=CC(=C2)O)C2=CC(=C(OCC(C(C)(C)C)=O)C=C2)C | C26H32O4
reactant | Et3N | 0.20 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonic chloride | 0.610 mmol, 70 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid 2-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzofuran-6-yl ester | 185 mg, 93% | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C=1OC2=C(C1)C=CC(=C2)OS(=O)(=O)C)C)=O)(C)C | C27H34O6S
